US04628058
13.5 g (0.04 mole) of N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl chloride were added dropwise to a suspension of 5.5 g (0.06 mole) of sodium 1,2,4-triazolide in 120 ml of dry tetrahydrofuran at 20° C. The mixture was stirred for 6 hours at 65° C., after which it was cooled to 20° C., and the precipitate was filtered off under suction. The filtrate was evaporated down, the residue was suspended in 30 ml of diethyl ether, and the product was filtered off under suction. 13.1 g of 1-(N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl)-1,2,4-triazole were obtained as colorless crystals of melting point 122°-124° C. (compound NO. 2).

reactant | N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl chloride | 0.04 mole, 13.5 g | ClC=1C=C(C2=C(CC(O2)CN(C(=O)Cl)CCCC)C1)Cl | C14H16Cl3NO2
reactant | sodium 1,2,4-triazolide | 0.06 mole, 5.5 g | N1N=[C-]N=C1.[Na+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-(N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylcarbamyl)-1,2,4-triazole | 13.1 g | ClC=1C=C(C2=C(CC(O2)CN(C(=O)N2N=CN=C2)CCCC)C1)Cl | C16H18Cl2N4O2
